US07208629B2
Pyrrolidine (200 μl) was added to a solution of 2-amino-5-chloro-1,3,4-thiadiazole (60 mg) in ethanol (2 ml) and the mixture heated in a sealed vial at 40° C. for 6 hours. The precipitate was filtered off and washed with a little methanol to give 2-amino-5-pyrrol-1-yl-1,3,4-thiadiazole.

reactant | Pyrrolidine | 200 μl | N1CCCC1 | C4H9N
reactant | 2-amino-5-chloro-1,3,4-thiadiazole | 60 mg | NC=1SC(=NN1)Cl | C2H2ClN3S
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-amino-5-pyrrol-1-yl-1,3,4-thiadiazole | NC=1SC(=NN1)N1C=CC=C1 | C6H6N4S
